US07863291B2
Step A: N-(4-Bromobenzyl)-2,2-diethoxyacetimidamide
(4-Bromophenyl)methanamine hydrochloride (2.359 g, 10.39 mmol) and sodium methoxide (2.376 mL, 10.39 mmol) were added to a solution of methyl 2,2-diethoxyacetimidate (3.35 g, 20.78 mmol) in methanol (10 ml). The cloudy mixture was heated at 70 C for 1.5 h and the resulting yellow mixture was concentrated. The residue was purified by silica gel with 100% ethyl acetate to give a yellow viscous oil (2.04 g, 62%). 1H NMR (400 MHz, CDCl3) δ ppm 7.47 (2H, d, J=8.56 Hz), 7.23 (2H, d, J=8.06 Hz), 6.76 (1H, br. s.), 5.31 (1H, br. s.), 4.94 (1H, br. s.), 4.45 (2H, br. s.), 3.47-3.77 (4H, m), 1.26 (6H, t, J=7.05 Hz). LCMS:R.T.=2.12; [M+2]+=317.2.

reactant | (4-Bromophenyl)methanamine hydrochloride | 10.39 mmol, 2.359 g | Cl.BrC1=CC=C(C=C1)CN
reactant | sodium methoxide | 10.39 mmol, 2.376 mL | C[O-].[Na+]
reactant | methyl 2,2-diethoxyacetimidate | 20.78 mmol, 3.35 g | C(C)OC(C(OC)=N)OCC | C7H15NO3
solvent | methanol | 10 ml | CO | CH4O
product | N-(4-Bromobenzyl)-2,2-diethoxyacetimidamide | 2.04 g, 62% | BrC1=CC=C(CNC(C(OCC)OCC)=N)C=C1 | C13H19BrN2O2
